US07435815B2
2-((4-tert-Butyl-benzenesulfonyl)-{[cyclopropyl-(3-methyl-benzyl)-carbamoyl]-methyl}-amino)-benzamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(2-carbamoyl-phenyl)-amino]-acetic acid with cyclopropyl-(3-methyl-benzyl)-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-(2-carbamoyl-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=C(C=CC=C1)C(N)=O)CC(=O)O | C19H22N2O5S
reactant | cyclopropyl-(3-methyl-benzyl)-amine | C1(CC1)NCC1=CC(=CC=C1)C | C11H15N
product | 2-((4-tert-Butyl-benzenesulfonyl)-{[cyclopropyl-(3-methyl-benzyl)-carbamoyl]-methyl}-amino)-benzamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=C(C(=O)N)C=CC=C1)CC(N(CC1=CC(=CC=C1)C)C1CC1)=O | C30H35N3O4S
